US07741315B2
Step 3: [11-(3-Chloro-4-fluorobenzyl)-9-hydroxy-1,8,10-trioxo-1,3,4,5,6,8,10,11,12,13-deca-hydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridin-2-yl]acetic acid
A mixture of tert-butyl[11-(3-chloro-4-fluorobenzyl)-9-methoxy-1,8,10-trioxo-1,3,4,5,6,8,10,11,12,13-decahydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridin-2-yl]acetate (50 mg, 0.09 mmol) and 33% hydrogen bromide in acetic acid (1 mL) in dioxane (1 mL) was stirred at room temperature for 1 hour. The product mixture was concentrated under vacuum. The residue was subjected to reverse phase column chromatography on C-18 stationary phase eluted with a 95-5% water-acetonitrile gradient. Collection and lyophilization of appropriate fractions afforded the title compound. 1H NMR (400 MHz, CDCl3) δ 7.34 (dd, J=6.6, 2.1 Hz, 1H), 7.18 (br signal, 1H), 7.11 (t, J=8.4 Hz, 1H), 4.78 (d, J=14.8 Hz, 1H), 4.52 (d, J=14.8 Hz, 1H), 4.41 (d, J=17.8 Hz, 1H), 4.07 (d, J=17.8 Hz, 1H), 3.67 (m, 1H), 3.51-3.36 (m), 3.23 (br d, 1H), 2.96 (m), 2.60 (m, 1H), 2.08 (m), 1.96 (m), 1.76 (m). (ES MS M+1=478.2)

reactant | tert-butyl[11-(3-chloro-4-fluorobenzyl)-9-methoxy-1,8,10-trioxo-1,3,4,5,6,8,10,11,12,13-decahydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridin-2-yl]acetate | 0.09 mmol, 50 mg | C(C)(C)(C)OC(CN1C(C=2N(C(C(=C3C(N(CCC23)CC2=CC(=C(C=C2)F)Cl)=O)OC)=O)CCCC1)=O)=O | C27H31ClFN3O6
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | [11-(3-Chloro-4-fluorobenzyl)-9-hydroxy-1,8,10-trioxo-1,3,4,5,6,8,10,11,12,13-deca-hydro-2H-[1,4]diazocino[2,1-a]-2,6-naphthyridin-2-yl]acetic acid | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)CC(=O)O)=O)=O)O)=O)C=CC1F | C22H21ClFN3O6
